datasets/10k__Tet_Int.csv
SMILES Labelled
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)C)C1=CC=CC=C1>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)C)C1=CC=CC=C1 10=20;20,21=21"
"CCCCCCC1C(O[C:20](=[O:10])N1C)CC.[O-:21]C>>CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]C)CC 21=20;20,10=10"
"[O:10]([Na])C(CC)C(C)C(O)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(O)C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"[OH:21][C:20]1(OC)[OH+:10]C(CC)C(C)=C1[H]>>[OH:10]C(CC)/C(C)=C([C:20](OC)=[OH+:21])/[H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[Li][O+:21]([C:20]([O-:10])(O[H])OCCCCCC)C1=CC=CC=C1>>[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(O[H])OCCCCCC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[NH:10](C)C([H])/C([H])=C(C)\C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(C)=C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[OH:10]C(C)C(O)C([C:20](OC)=[OH+:21])C>>[OH:21][C:20]1(OC)[OH+:10]C(C)C(O)C1C 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(O)C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])C(O)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)[H])CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)[H]>>CCN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C)C(C)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[S]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC)CCCCCC 21=20;20,10=10"
